US08222424B2
2-Chloro-5-[4-(2-hydroxy-ethoxy)-benzoyl]-benzenesulfonamide
5-{4-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-benzoyl}-2-chloro-benzenesulfonamide (1.84 g, 3.92 mmol) is dissolved in tetrahydrofuran (50 mL), and treated with a solution of tetrabutylammonium fluoride reagent (1 M in tetrahydrofuran, 2.2 mmol). The reaction is allowed to stir for 1 hour. The reaction is diluted with water and extracted with ether. The organic phase is separated and concentrated in vacuo affording 1.39 g (100% yield) of the title compound. 1H NMR (DMSO) δ 3.75 (t, 2H, J=4.55 Hz), 4.12 (t, 2H, J=4.80 Hz), 4.95 (s, 2H), 7.12 (d, 2H, J=8.84 Hz), 7.76-7.90 (m, 4H), 8.24 (d, 1H, J=2.02). MS (m/z): 354 (M−1).

reactant | 5-{4-[2-(tert-Butyl-dimethyl-silanyloxy)-ethoxy]-benzoyl}-2-chloro-benzenesulfonamide | 3.92 mmol, 1.84 g | C(C)(C)(C)[Si](OCCOC1=CC=C(C(=O)C=2C=CC(=C(C2)S(=O)(=O)N)Cl)C=C1)(C)C | C21H28ClNO5SSi
reactant | tetrabutylammonium fluoride | 2.2 mmol, 1 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 2-Chloro-5-[4-(2-hydroxy-ethoxy)-benzoyl]-benzenesulfonamide | 1.39 g, 100% yield | ClC1=C(C=C(C=C1)C(C1=CC=C(C=C1)OCCO)=O)S(=O)(=O)N | C15H14ClNO5S
